US04039551
A stirred, ice cold solution of N,N-diethylhydroxylamine (50 ml.) in dimethylformamide (50 ml.) under nitrogen, was treated with a 57% suspension of sodium hydride in mineral oil (1.39 g., 0.033 mole). The mixture was kept at ambient temperature for 55 minutes, cooled in an ice bath and treated with 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo [4,3-a][1,4]benzodiazepine (10.3 g., 0.03 mole). This mixture was kept at ambient temperature for 18 hours and poured into ice water. The resulting mixture was saturated with sodium chloride and extracted with chloroform. The extract was washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was mixed with xylene and concentrated in vacuo, the resulting material was crystallized from wet methanol-ethyl acetate to give 8-chloro-1-[(diethylamino)-methyl]-6-phenyl-4H-s-triazolo [4,3-a][1,4]benzodiazepine, N1 -oxide dihydrate in two crops: 5.91 g., of melting point 137.5°-139.5° C. dec. and 1.16 g., of melting point 135°-137.5° C. The analytical sample had a melting point of 135°-137.5° C. dec.

reactant | N,N-diethylhydroxylamine | 50 ml | C(C)N(O)CC | C4H11NO
reactant | sodium hydride | [H-].[Na+]
reactant | 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo [4,3-a][1,4]benzodiazepine | 0.03 mole, 10.3 g | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12Cl2N4
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 8-chloro-1-[(diethylamino)-methyl]-6-phenyl-4H-s-triazolo [4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(CC)CC)C3=CC=CC=C3)C1 | C21H22ClN5
